* /home/sumanto/esim-2.1/library/subcircuitlibrary/10bitdac/10bitdac.cir

r1  net-_r1-pad1_ net-_r1-pad2_ 1024k
r2  net-_r2-pad1_ net-_r1-pad2_ 512k
r3  net-_r3-pad1_ net-_r1-pad2_ 256k
r4  net-_r4-pad1_ net-_r1-pad2_ 128k
r5  net-_r5-pad1_ net-_r1-pad2_ 64k
r6  net-_r6-pad1_ net-_r1-pad2_ 32k
r7  net-_r7-pad1_ net-_r1-pad2_ 16k
r9  net-_r9-pad1_ net-_r1-pad2_ 8k
r10  net-_r10-pad1_ net-_r1-pad2_ 4k
r11  net-_r11-pad1_ net-_r1-pad2_ 2k
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ port
* u2  net-_r1-pad2_ gnd net-_u1-pad11_ summer
* u3  net-_u1-pad1_ gnd net-_r1-pad1_ summer
* u8  net-_u1-pad2_ gnd net-_r2-pad1_ summer
* u4  net-_u1-pad3_ gnd net-_r3-pad1_ summer
* u5  net-_u1-pad4_ gnd net-_r4-pad1_ summer
* u9  net-_u1-pad5_ gnd net-_r5-pad1_ summer
* u10  net-_u1-pad6_ gnd net-_r6-pad1_ summer
* u6  net-_u1-pad7_ gnd net-_r7-pad1_ summer
* u7  net-_u1-pad8_ gnd net-_r9-pad1_ summer
* u12  net-_u1-pad9_ gnd net-_r10-pad1_ summer
* u11  net-_u1-pad10_ gnd net-_r11-pad1_ summer
a1 [net-_r1-pad2_ gnd ] net-_u1-pad11_ u2
a2 [net-_u1-pad1_ gnd ] net-_r1-pad1_ u3
a3 [net-_u1-pad2_ gnd ] net-_r2-pad1_ u8
a4 [net-_u1-pad3_ gnd ] net-_r3-pad1_ u4
a5 [net-_u1-pad4_ gnd ] net-_r4-pad1_ u5
a6 [net-_u1-pad5_ gnd ] net-_r5-pad1_ u9
a7 [net-_u1-pad6_ gnd ] net-_r6-pad1_ u10
a8 [net-_u1-pad7_ gnd ] net-_r7-pad1_ u6
a9 [net-_u1-pad8_ gnd ] net-_r9-pad1_ u7
a10 [net-_u1-pad9_ gnd ] net-_r10-pad1_ u12
a11 [net-_u1-pad10_ gnd ] net-_r11-pad1_ u11
* Schematic Name:                             summer, NgSpice Name: summer
.model u2 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u3 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u8 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u4 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u5 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u9 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u10 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u6 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u7 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u12 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
* Schematic Name:                             summer, NgSpice Name: summer
.model u11 summer(in_offset=[0.0 0.0 ] in_gain=[1.0 1.0 ] out_gain=1.0 out_offset=0.0 ) 
.tran 1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
